US08012980B2
N-Cyclopropyl-3-fluoro-5-[2-(3-hydroxy-2,2-dimethylpropyl)-4-{[(2S)-2-methylpiperazin-1-yl]methyl}-1-oxo-1,2-dihydroisoquinolin-6-yl]-4-methylbenzamide
The title compound was synthesised by a similar method to Example 26 h using 3-[2-(3-{[tert-butyl(dimethyl)silyl]oxy}-2,2-dimethylpropyl)-4-(hydroxymethyl)-1-oxo-1,2-dihydroisoquinolin-6-yl]-N-cyclopropyl-5-fluoro-4-methylbenzamide (0.54 g), and tert-butyl (3S)-3-methylpiperazine-1-carboxylate (0.191 g). Purified by preparative HPLC (Waters Xbridge column using a 95-5% gradient of aqueous 0.2% ammonia in acetonitrile as eluent) to give the title compound (0.072 g) as a solid.

reactant | 3-[2-(3-{[tert-butyl(dimethyl)silyl]oxy}-2,2-dimethylpropyl)-4-(hydroxymethyl)-1-oxo-1,2-dihydroisoquinolin-6-yl]-N-cyclopropyl-5-fluoro-4-methylbenzamide | 0.54 g | [Si](C)(C)(C(C)(C)C)OCC(CN1C(C2=CC=C(C=C2C(=C1)CO)C=1C=C(C(=O)NC2CC2)C=C(C1C)F)=O)(C)C | C32H43FN2O4Si
reactant | tert-butyl (3S)-3-methylpiperazine-1-carboxylate | 0.191 g | C[C@H]1CN(CCN1)C(=O)OC(C)(C)C | C10H20N2O2
product | N-Cyclopropyl-3-fluoro-5-[2-(3-hydroxy-2,2-dimethylpropyl)-4-{[(2S)-2-methylpiperazin-1-yl]methyl}-1-oxo-1,2-dihydroisoquinolin-6-yl]-4-methylbenzamide | 0.072 g | C1(CC1)NC(C1=CC(=C(C(=C1)C=1C=C2C(=CN(C(C2=CC1)=O)CC(CO)(C)C)CN1[C@H](CNCC1)C)C)F)=O | C31H39FN4O3
